* source EXP2
R_R1         N00154 N00161  500 TC=0,0 
R_R2         N00190 0  100 TC=0,0 
R_R3         N00161 N00165  300 TC=0,0 
R_R4         0 N00161  200 TC=0,0 
V_V1         N00154 N00190 5Vdc
I_I1         N00165 0 DC 10mAdc  
