* source EXP1
V_V1         N14386 N14421 15Vdc
R_R1         N14386 N14395  2k TC=0,0 
R_R2         0 N14395  0.5k TC=0,0 
R_R3         0 N14421  1k TC=0,0 
