* source EXP11
Q_Q1         N00411 N00384 N00418 Q2N2222
V_V1         N00407 0 15
V_V2         0 N00425 15
R_R1         N00384 N00407  20k TC=0,0 
R_R2         N00425 N00384  10k TC=0,0 
R_R3         N00411 N00407  2.2k TC=0,0 
R_R4         N00425 N00418  1k TC=0,0 
R_R5         0 N00411  10k TC=0,0 
R_R6         N00369 N00376  1k TC=0,0 
C_C1         N00376 N00384  0.1u  TC=0,0 
C_C2         0 N00411  0.01u  TC=0,0 
V_V3         N00369 0 DC 0Vdc AC 0.1 
