* source EXP3
V_V1         0 N00153 0Vdc
V_V2         N00149 0 0Vdc
R_R1         N00153 N00160  20k TC=0,0 
R_R2         N00160 N00164  50k TC=0,0 
R_R3         N00149 N00164  25k TC=0,0 
R_R4         0 N00160  54k TC=0,0 
R_R5         0 N00164  5k TC=0,0 
