* source EXP4
R_R1         N00170 N00177  2.2k TC=0,0 
R_R2         N00170 N00213  3.3k TC=0,0 
R_R3         N00213 N00177  6.8k TC=0,0 
R_R4         0 N00213  1.5k TC=0,0 
V_V1         N00170 0 0
V_V2         0 N00177 0
I_I1         0 N00213 DC 0  
