* source EXP7
R_R1         N00183 N00190  6 TC=0,0 
R_R2         N00190 N00203  4 TC=0,0 
C_C1         0 N00190  20u  TC=0,0 
L_L1         N00203 0  2mH  
V_V1         N00183 0  
+PULSE 0 0.5 1m 50u 50u 0.45m 1m
